US05574055
10.7 g (29.28 mmol) of (R)-5-methoxymethyl-3-[4-(trans-4-methylsulfanylmethoxy-cyclohexyl)-phenyl]-oxazolidin-2-one were dissolved in 500 ml of methanol, cooled to 0° and treated dropwise while stirring during 90 minutes with a solution of 4.7 g (22.0 mmol) of sodium periodate in 150 ml of water. The reaction mixture was stirred in a cold storage chamber at 4°-5° for 19 hours. Thereafter, it was diluted with 1 l of water and extracted with methylene chloride. The organic phase was washed with water, dried over sodium sulfate and filtered. The filtrate was filtered through a 400 g silica gel 60 pad and washed in succession and separately with ethyl acetate (800 ml), methanol (1 l) and tetrahydrofuran (800 ml). 3.16 g of educt remained behind after evaporation of the ethyl acetate eluate. After evaporation the methanol and tetrahydrofuran eluates gave 8.11 g of (R)-3-[4-(trans-4-methanesulfinylmethoxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one (S-oxide R:S=1:1 diastereomer mixture) as a yellow oil, b.p. 205°/0.02 mbar, [α]D =-32.2° (c=1.0%, DMSO).

reactant | (R)-5-methoxymethyl-3-[4-(trans-4-methylsulfanylmethoxy-cyclohexyl)-phenyl]-oxazolidin-2-one | 29.28 mmol, 10.7 g | COC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)OCSC | C19H27NO4S
reactant | sodium periodate | 22.0 mmol, 4.7 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
solvent | water | 1 l | O | H2O
product | (R)-3-[4-(trans-4-methanesulfinylmethoxy-cyclohexyl)-phenyl]-5-methoxymethyl-oxazolidin-2-one | 8.11 g | CS(=O)CO[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)COC)=O | C19H27NO5S
